US06982348B2
1) (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-{3-[(trifluoromethyl)sulfonyl]phenyl}propan-1-ol
To a solution of tert-butyl (1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-{3-[(trifluoromethyl)sulfonyl]benzyl}-ethylcarbamate (620 mg, 1.30 mmol) was added trifluoroacetic acid (5 ml), and mixture was stirred at 0° C. for 10 min. After the reaction solution was concentrated, saturated aqueous sodium hydrogen carbonate was added and the mixture was extracted with ethyl acetate (30 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure to give the objective substance (0.52 g, 100%).

reactant | tert-butyl (1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-{3-[(trifluoromethyl)sulfonyl]benzyl}-ethylcarbamate | 1.30 mmol, 620 mg | FC1=CC=C(C=C1)C(C(CC1=CC(=CC=C1)S(=O)(=O)C(F)(F)F)NC(OC(C)(C)C)=O)O | C21H23F4NO5S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-{3-[(trifluoromethyl)sulfonyl]phenyl}propan-1-ol | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)S(=O)(=O)C(F)(F)F | C16H15F4NO3S
